US07888344B2
3-Bromospiro[5,5]undecane-2,4-dione
To a stirred solution of spiro[5,5]undecane-2,4-dione (1.29 g, 5 mmol) in AcOH (10 mL) at r.t. was added bromine (0.8 g, 0.25 ml, 5 mmol) dropwise. The reaction was carried out according to Method A to give the title compound in quantitative yield as a light brown solid which was used without further purification. LCMS (ES+) 258.9 (M+H)+.

reactant | spiro[5,5]undecane-2,4-dione | 5 mmol, 1.29 g | C1C(CC(CC12CCCCC2)=O)=O | C11H16O2
reactant | bromine | 5 mmol, 0.25 ml, 0.8 g | BrBr | Br2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 3-Bromospiro[5,5]undecane-2,4-dione | quantitative yield | BrC1C(CC2(CC1=O)CCCCC2)=O | C11H15BrO2
